US04997840
A solution of sulphuryl chloride (11.9 ml) in dichloromethane (200 ml) was added dropwise to the solution of 2'-acetyl-6'-fluoro-N-methylformanilide at 0° under a nitrogen atmosphere. The reaction mixture was stirred at 0° for 3.25 hours. Water (100 ml) was added dropwise and the mixture stirred for 30 minutes. The dichloromethane layer was separated, washed with water (160 ml) and dried over magnesium sulphate before removing the solvent under reduced pressure at ambient temperature. The residue was added to a mixture of benzoic acid (22.6 g), potassium carbonate (42.5 g), 25 molecular sieves (4A°, 50 g) and dry dimethylformamide (200 ml) and the resultant mixture stirred at ambient temperature for 3 hours and then at 60° for 2 hours. Further dimethylformamide (600 ml) and potassium carbonate (17 g) were added and the mixture was heated at 60° overnight. The mixture was cooled, filtered and the solvent removed from the filtrate under reduced pressure at 60°. The residue was triturated with water (400 ml) and then with diethyl ether (400 ml). The resultant solid was crystallised from industrial methylated spirit (200 ml) to give the novel compound 8-fluoro-1-methyl-4-oxo-1,4-dihydroquinol-3-yl benzoate, m.p. 179°-181°.

reactant | sulphuryl chloride | 11.9 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2'-acetyl-6'-fluoro-N-methylformanilide | C(C)(=O)C1=C(N(C=O)C)C(=CC=C1)F | C10H10FNO2
reactant | Water | 100 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 8-fluoro-1-methyl-4-oxo-1,4-dihydroquinol-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1=CN(C2=C(C=CC=C2C1=O)F)C | C17H12FNO3
